US08426447B2
Resealable tube was charged with 2′-bromo-7′-iodo-5H-spiro[oxazole-4,9′-xanthen]-2-amine (100 mg, 0.219 mmol), pyridin-3-ylboronic acid (81 mg, 0.656 mmol), Pd(PPh3)4 (50.6 mg, 0.044 mmol). DME (1 ml) and sodium carbonate (0.328 ml, 0.656 mmol) were added and the reaction mixture was capped with argon, sealed, and stirred at 95° C. for 16 hrs. The mixture was partitioned between DCM and water. The aqueous layer was removed and the organic layer was washed with brine, filtered and concentrated in vacuo. The crude residue was purified by flash chromatography on silica gel (12 g column, 15-100% DCM/MeOH/NH4OH in DCM) to give material with impurity followed by second FC on silica (12 g column, 50-85% DCM/MeOH/NH4OH) to give 2′,7′-di(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine.

reactant | 2′-bromo-7′-iodo-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.219 mmol, 100 mg | BrC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)I)N=C(OC3)N | C15H10BrIN2O2
reactant | pyridin-3-ylboronic acid | 0.656 mmol, 81 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 0.656 mmol, 0.328 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.044 mmol, 50.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 1 ml | COCCOC | C4H10O2
product | 2′,7′-di(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | N1=CC(=CC=C1)C1=CC=2C3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=CC1)N=C(OC3)N | C25H18N4O2
